US07655680B2
Sodium hydride (239 mg, 6.0 mmol) and a drop of methanol were added to a solution (10 ml) of methyl 3-[2-(3,4-diethoxyphenyl)thiazole-4-yl]propionate (1.0 g, 3.0 mmol) and methyl 3-ethoxypyridine-2-carboxylate (702 mg, 3.9 mmol) in dimethoxyethane, followed by heating under reflux for 2 hours. After cooling to room temperature, a saturated aqueous ammonium chloride solution was added to the reaction mixture, and the resulting mixture was subjected to extraction with ethyl acetate. The organic layer was washed with a saturated salt solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=2/3). The solvent was distilled off under reduced pressure, to thereby obtain 740 mg (yield: 51%) of methyl 2-[2-(3,4-diethoxyphenyl)thiazole-4-ylmethyl]-3-(3-ethoxypyridine-2-yl)-3-oxopropionate as a yellow oil.

reactant | Sodium hydride | 6.0 mmol, 239 mg | [H-].[Na+]
reactant | methyl 3-[2-(3,4-diethoxyphenyl)thiazole-4-yl]propionate | 3.0 mmol, 10 ml, 1.0 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)CCC(=O)OC | C17H21NO4S
reactant | methyl 3-ethoxypyridine-2-carboxylate | 3.9 mmol, 702 mg | C(C)OC=1C(=NC=CC1)C(=O)OC | C9H11NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | methanol | CO | CH4O
product | methyl 2-[2-(3,4-diethoxyphenyl)thiazole-4-ylmethyl]-3-(3-ethoxypyridine-2-yl)-3-oxopropionate | 740 mg, yield: 51% | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)CC(C(=O)OC)C(=O)C1=NC=CC=C1OCC | C25H28N2O6S
